US07250418B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting 2-bromopyrimidine and starting with 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine provided the title compound as an amorphous solid. 1H NMR (CDCl3) δ 1.17, 1.26–1.34, 2.51, 2.76, 3.54, 3.78, 3.86, 3.97, 4.27, 4.91, 5.25, 6.61, 6.90, 7.02, 7.25, 8.40; IR (diffuse reflectance) 2971, 2392 (w), 2352 (w), 2307 (w), 2265 (w), 2170 (w), 1583 (s), 1569, 1549 (s), 1508 (s), 1481 (s), 1475 (s), 1397, 1392, 1384 cm−1 HRMS (EI) calcd for C25H31ClN6O2 482.2197. found 482.2192.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 2-bromopyrimidine | BrC1=NC=CC=N1 | C4H3BrN2
reactant | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C21H29ClN4O2
product | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl pyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C1=NC=CC=N1)CC | C25H31ClN6O2
